US06562827B1
a) Methyl 2-(4-(Pyrimid-2-yl)piperazin-1-yl)nicotinate
3.4 g of methyl chloronicotinate, 11.1 g of potassium carbonate and 4.7 g of N-(2-pyrimidyl)piperazine dihydrochloride were reacted in 75 ml of DMF analogously to Example 1a, 4.6 g (78%) of the product being obtained.

reactant | methyl chloronicotinate | 3.4 g | ClC1=C(C(=O)OC)C=CC=N1 | C7H6ClNO2
reactant | potassium carbonate | 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-pyrimidyl)piperazine dihydrochloride | 4.7 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(4-(Pyrimid-2-yl)piperazin-1-yl)nicotinate | N1=C(N=CC=C1)N1CCN(CC1)C1=C(C(=O)OC)C=CC=N1 | C15H17N5O2
